US07220862B2
(R)-2-Benzyloxycarbonylamino-3-(4-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester
A mixture of (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester (418 mg, 1.13 mmol), N-bromosuccinimide (221 mg, 1.24 mmol), silica gel (EM Scientific, 230–400 mesh, 2.51 g) and methylene chloride (70 mL) was stirred at room temperature for 16 h. Solvents were removed in vacuo and the residue was subjected to silica gel chromatography using ethyl acetate/hexanes (2:3) as eluent to afford the title compound. 1H-NMR (CD3COCD3, 500 MHz) δ 10.71 (s, 1H), 7.35–7.28 (m, 6H), 7.21 (s, 1H), 6.75 (d, J=7.5 Hz, 1H), 5.06 (d, 12.5 Hz, 1H), 5.02 (d, J=12.5 Hz, 1H), 4.56–4.51 (m, 1H), 3.73 (s, 3H), 3.26 (dd, J=14.0, 5.0 Hz, 1H), 3.03 (dd, J=14.0, 10.0 Hz, 1H); 13C-NMR (CD3COCD3, 125 MHz) δ 172.2, 156.4, 153.8, 144.4, 137.6, 133.7, 129.8, 128.7, 128.2, 128.0, 127.8, 110.1, 100.9, 66.3, 55.9, 52.0, 37.3; Mass spec. 448.03 (MH+).

reactant | (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 1.13 mmol, 418 mg | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H18N2O6
reactant | N-bromosuccinimide | 1.24 mmol, 221 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Benzyloxycarbonylamino-3-(4-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | COC([C@@H](CC1=CC2=C(NC(O2)=O)C(=C1)Br)NC(=O)OCC1=CC=CC=C1)=O | C19H17BrN2O6
